US04649146
To a solution of ethyl 5-acetyl-2-amino-4-thiazolecarboxylate (12.9 g) in a mixture of 30% solution of hydrogen bromide in acetic acid (50 ml) and acetic acid (50 ml) was added pyridinium hydrobromide perbromide (21.1 g) at ambient temperature and stirred for one hour. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate, and evaporatec in vacuo. The residue was washed with diisopropyl ether to give ethyl 2-amino-5-(2-bromoacetyl)-4-thiazolecarboxylate (14.86 g). mp 164°-166° C. (dec.)

reactant | ethyl 5-acetyl-2-amino-4-thiazolecarboxylate | 12.9 g | C(C)(=O)C1=C(N=C(S1)N)C(=O)OCC | C8H10N2O3S
reactant | hydrogen bromide | Br | BrH
reactant | pyridinium hydrobromide | Br.[NH+]1=CC=CC=C1
reactant | water | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | ethyl 2-amino-5-(2-bromoacetyl)-4-thiazolecarboxylate | 14.86 g | NC=1SC(=C(N1)C(=O)OCC)C(CBr)=O | C8H9BrN2O3S
